US07572820B2
B. 4-Chloro-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile
Synthesized as described in Example 197A from 5-bromo-4-chloro-2-(trifluoromethyl)-1H-benzimidazole and CuCN: MS (APCl) m/z 246 (M+1).

reactant | 5-bromo-4-chloro-2-(trifluoromethyl)-1H-benzimidazole | BrC1=C(C2=C(NC(=N2)C(F)(F)F)C=C1)Cl | C8H3BrClF3N2
reactant | CuCN | C(#N)[Cu]
product | 4-Chloro-2-(trifluoromethyl)-1H-benzimidazole-5-carbonitrile | ClC1=C(C=CC=2NC(=NC21)C(F)(F)F)C#N | C9H3ClF3N3
